Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
-Babesiosis
-Hemolytic anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with a h/o of HCV s/p Harvoni, HTN, who is presenting 
with 104 fever. Pt has had symptoms since last ___, which 
include fever, chills, body aches, decreased appetite, and 
frontal headache. Went to see PCP on ___, was told most 
likely viral, and to continue symptomatic management with 
Ibuprofen and Tylenol. He improved slightly on ___ and 
___. However, over the weekend he worsened. Has just lied 
in bed and felt very fatigued. He continues to eat very little. 
His Tmax at home was 103. Was given 2.5 L at home this morning 
(wife is an anesthesiologist who administered this).  

Denies sob, cough, sore throat, stiff neck, diarrhea, dysuria. 
No recent travel besides ___, where he has a home. 
During the past year, he has travelled to ___, ___, and ___. 
Last international travel was to ___ and ___ one 
year ago. He denies rash. He denies known tick exposure, but 
does live in a wooded area.  
 In the ED, initial vitals were: 103.9, 98, 147/86, 18, 98% RA  
 Labs notable for: Parasite smear 2.0% parasitemia. LDH 1105. 
H+H 8.7/26.4. PLT 98. Diff with atypicals and myelo  
 Imaging notable for:  
 CXR - No acute cardiopulmonary process.  
 Patient was given: NS @150/hr (also s/p 2.5 L at home), 1g 
Tylenol, Doxycycline, 500mg Azithromycin, 750mg Atovaquone.  
 On the floor, pt confirms the above history with no new 
complaints. Currently without fever or chills. 
 
Past Medical History:
 HTN  
 Hepatitis C with cirrhosis, finished 24 weeks Harvoni on ___ 
 
 Osteoarthritis  
  
 
Social History:
___
Family History:
 FAMILY HISTORY: Mother with HTN, alive in her ___. Father died 
in his ___ of "cardiac" causes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM  
Vital Signs: 98.7, 111 / 66, 74, 18, 95 RA  
General: Alert, oriented x3, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, +conjunct pallor 
 
NECK: supple  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, non-tender, non-distended, +BS  
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema  
Neuro: No gross focal deficits, answering questions 
appropriately  
Skin: No rash or bite identified 

DISCHARGE PHYSICAL EXAM
Vital Signs: Tm 98.9  Tc 98.9 BP 120/77 119-130/59-77  HR 76 
___ RR 18  99%  O2   I/O PO 360 IV 509/multiple voids 
unmeasured (24)  IV 509/ multiple voids unmeasured(MN)

General: Alert, oriented x3, no acute distress  
HEENT: Sclera anicteric, moist MMM, oropharynx clear, +conjunct 
pallor  
NECK: supple, negative Brudzinski sign  
CV: Regular rate and rhythm, normal S1 + S2, Grade ___ systolic 
murmur heard best at LUSB, did not hear radiation to clavicles, 
JVD 6 cm H2O  
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, non-tender, non-distended, +BS, no splenomegaly  
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema  
Neuro: CN2-12 intact, Pupils 1.5 mm-> 1mm, strength ___, No 
gross focal deficits, answering questions appropriately  
Skin: No rash or bite identified, no signs of petechiae or 
bruising 
 
Pertinent Results:
ADMISSION LABS

___ 08:30PM   WBC-5.9 RBC-2.79*# HGB-8.7*# HCT-26.4*# 
MCV-95 MCH-31.2 MCHC-33.0 RDW-13.4 RDWSD-46.8*
___ 08:30PM   NEUTS-39 BANDS-4 ___ MONOS-6 EOS-0 
BASOS-1 ATYPS-5* ___ MYELOS-1* NUC RBCS-1* AbsNeut-2.54 
AbsLymp-2.89 AbsMono-0.35 AbsEos-0.00* AbsBaso-0.06
___ 08:30PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-1+ MICROCYT-OCCASIONAL POLYCHROM-1+
___ 08:30PM   PLT SMR-LOW PLT COUNT-98*
___ 08:30PM   RET AUT-5.1* ABS RET-0.14*
___ 08:30PM   PARST SMR-2.0% PARASITEMIA
___ 08:30PM   HAPTOGLOB-<10*
___ 08:30PM   ALT(SGPT)-23 AST(SGOT)-60* LD(LDH)-1105* ALK 
PHOS-63 TOT BILI-2.2* DIR BILI-0.6* INDIR BIL-1.6
___ 08:30PM   ALBUMIN-2.9*
___ 08:30PM   GLUCOSE-108* UREA N-16 CREAT-0.8 SODIUM-130* 
POTASSIUM-5.3* CHLORIDE-95* TOTAL CO2-25 ANION GAP-15
___ 08:30PM   estGFR-Using this
___ 08:30PM   estGFR-Using this
___ 08:34PM   LACTATE-1.8
___ 09:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM  UROBILNGN->12 PH-6.0 
LEUK-NEG
___ 09:50PM URINE  RBC-2 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 09:50PM URINE  MUCOUS-RARE

DISCHARGE LABS

___ 06:44AM BLOOD WBC-6.9 RBC-2.74* Hgb-8.6* Hct-27.3* 
MCV-100* MCH-31.4 MCHC-31.5* RDW-14.8 RDWSD-50.4* Plt ___
___ 06:44AM BLOOD Plt ___
___ 06:44AM BLOOD Parst S-POSITIVE
___ 06:44AM BLOOD Ret Aut-8.1* Abs Ret-0.22*
___ 06:44AM BLOOD Glucose-129* UreaN-11 Creat-0.8 Na-134 
K-3.7 Cl-101 HCO3-20* AnGap-17
___ 06:44AM BLOOD ALT-27 AST-47* LD(LDH)-848* AlkPhos-81 
TotBili-1.9* DirBili-0.7* IndBili-1.2
___ 06:44AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.0
___ 06:44AM BLOOD Hapto-<10*

MICROBIOLOGY
Lyme IgG (Final ___: 
NEGATIVE BY EIA. 
          
Lyme IgM (Final ___: 
NEGATIVE BY EIA. 

___ Blood Culture, Routine (Final ___:    NO 
GROWTH. 
___ Blood Culture, Routine (Final ___:    NO 
GROWTH.
           
 
Brief Hospital Course:
___ y/o M with a h/o HTN and treated Hep C who presents with 
fever, chills, and malaise, found to have 2% parasitemia and 
hemolytic anemia/thrombocytopenia consistent with babesiosis. 

# Babesiosis: Patient had possible tick contact, epidemiologic 
concordance given ___ at ___. Given lower 
parasite load, lack of immunosuppression, no history of 
splenectomy, and overall clinical stability, this was considered 
mild babesiosus and he was treated with Atovaquone Suspension 
750 mg PO/NG BID, Azithromycin 250 mg PO/NG Q24H,and Doxycycline 
Hyclate 100 mg PO Q12H. Infectious disease consulted and 
recommended continuing this triple therapy for 10 days 
(___). CBC remained stable with discharge Hgb 8.6 HCT 
27.3 Plt 109. Parasite smear remained low, discharge smear 0.7%.

He did not have arthralgias, neurologic deficits, rashes or 
cardiac problems. EKG showed NSR with PR 172 and QT 412. Repeat 
Hgb/Hct stable with improved thrombocytopenia. Lyme IgM/IgG 
negative. Anaplasma (HGE) IgG/IgM are pending. 

# Hemolytic anemia. Presented with elevated LDH, low 
haptoglobin, elevated reticulocyte count and elevated direct 
bilirubin consistent with hemolytic anemia secondary to 
babesiosis. Clinically stable throughout his hospitalization; 
discharge hemoglobin 8.6 g/dL. Did not require transfusions 
while in-house. 

#Hyponatremia: ___ Sodium 130. Corrected with 1L LR so likely 
hypovolemic from poor PO intake and acute illness.

#Headache: presented with frontal headache most likely secondary 
to infection. He had no focal neurologic deficits, no neck 
stiffnes and negative Brudzinski sign so low concern for 
meningitis/encephalitis. He was treated with prn Tylenol and 
ibuprofen for pain.

===================
TRANSITIONAL ISSUES
===================
# Antibiotic course. Will remain on atovaquone, azithromycin, 
and doxycycline for total ___nding ___.
# Pending labs. Please follow up on pending Anaplasma 
serologies.
# Code status: FULL
# Contact: Wife, ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen Dose is Unknown  PO Frequency is Unknown 
2. Acetaminophen Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Atovaquone Suspension 750 mg PO BID 
RX *atovaquone 750 mg/5 mL 750 mg by mouth twice a day 
Refills:*0 
2.  Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 (one) tablet(s) by mouth once a day 
Disp #*9 Tablet Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 (one) tablet(s) by mouth twice 
a day Disp #*18 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Ibuprofen 400-600 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
- babesiosis
- hemolytic anemia
- hypovolemic hyponatremia

SECONDARY DIAGNOSES
- hypertension
- hepatitis C infection (treated) 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
fevers, chills and body aches. Your laboratory values showed low 
red blood cell counts, and signs of red blood cell breakdown, 
consistent with a parasitic infection called Babesiosis. While 
you were here, your hemoglobin and hematocrit levels were 
stable. Your parasite counts remained low reducing from 2% to 
0.7%.

We are discharging you home today. As you recover, you may 
continue to have fevers, chills and fatigue but continue to take 
tylenol for fever/pain control and continue drink fluids.  We 
have made an appointment for you to see Dr. ___ @ 
11:40 pm.

It was a pleasure taking care of you,

Your ___ Team
 
Followup Instructions:
___